Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypoxia
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Mrs. ___ is a ___ with PMH significant for dementia, HTN, 
h/o PE in ___ and ___ on warfarin, hypothyroidism and recent 
fall with non-operative hip fracture who presents to the ED from 
Pulmonary clinic with hypoxia.

Patient is poor historian secondary to dementia so most of 
history gathered from daughter ___. Patient was hospitalized 
at ___ on ___ after a mechanical fall at home 
with resultant non-operative hip fracture. Daughter remarks that 
patient was on and off oxygen while in the hospital but states 
that she was discharged to rehab and then to ___ 
___ living facility last week NOT on O2. She was noted to 
have fluctuating O2 sat readings ranging from mid ___ to ___ by 
her ___ since being at the assisted living facility. Patient was 
seen by her PCP who recommended that she be seen by the ___ 
Pulmonary division. While in the Pulmonary office today, she was 
noted to be 80% on room air and asymptomatic. Given the severity 
of her hypoxia, she was transferred to the ED for further 
evaluation.

In the ED, initial vital signs were: 97.2, 70, 139/71, 18, 98% 
3L NC
- Exam was unremarkable.
- Labs were notable for: INR 4.3, H/H 14.0/45.3, lipase 68, BNP 
218, HCO3 of 33.
- Imaging: CTA chest did not show a PE but did show bilateral 
lower lobe atelectasis.
- The patient was given: no medications
- Consults: none
- Pt was admitted to medicine for: workup and management of 
hypoxia
Vitals prior to transfer were: 97.6, 70, 185/60, 17, 99% 3L NC

Upon arrival to the floor, patient reports that she feels well 
and has no acute complaints. She is A&Ox3 but is not able to 
recall her recent hospitalization and subsequent course with any 
detail.
 
Past Medical History:
HYPERTENSION
MECHANICAL FALL WITH NON-OPERATIVE HIP/COCCYX FRACTURE ___
HYPOTHYROIDISM
H/O PE and DVT on warfarin lifelong
DEMENTIA/MEMORY LOSS
 
Social History:
___
Family History:
Sister with asthma. No lung cancer or emphysema.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: 98.3, 185/57, 68, 19, 96% 3L NC
GENERAL: Pleasant, well-appearing, in no apparent distress.
HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.
NECK: Supple, no LAD, no thyromegaly, JVP flat at 45 degrees.
CARDIAC: Irregular but with regular rate, normal S1/S2, no 
murmurs rubs or gallops.
PULMONARY: Faint bibasilar crackles otherwise clear throughout, 
without wheezes or rhonchi.
ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.
SKIN: Without rash.
NEUROLOGIC: A&Ox3 but poor short term memory, CN II-XII grossly 
normal, normal sensation, with strength ___ throughout. Gait not 
assessed.

DISCHARGE PHYSICAL EXAM
VITALS: 98.1 131/50 83 18 95%^3L
GENERAL: AAOx3, problems with short term memory. NAD 
HEENT: Sclerae anicteric  
NECK: Supple, JVP 5-8cm 
RESP: Dry bibasilar crackles extending ___ way up lung R > L, 
not clearing with cough
CV: Regular rate, no m/r/g 
ABD: +BS, soft, NTND, no HSM 
GU: no foley  
EXT: WWP, no edema  

 
Pertinent Results:
ADMISSION LABS
--------------
___ 04:23PM   GLUCOSE-133* UREA N-17 CREAT-0.9 SODIUM-143 
POTASSIUM-3.7 CHLORIDE-101 TOTAL CO2-33* ANION GAP-13
___ 04:23PM   ALBUMIN-4.0 CALCIUM-9.4 PHOSPHATE-3.1 
MAGNESIUM-1.7
___ 04:23PM   WBC-6.6 RBC-4.87 HGB-14.0 HCT-45.3* MCV-93 
MCH-28.7 MCHC-30.9* RDW-15.5 RDWSD-52.9*
___ 04:23PM   ___ PTT-53.8* ___
___ 04:23PM   proBNP-218

IMPORTANT LABS
--------------
___ 04:23PM BLOOD ___ PTT-53.8* ___
___ 06:43AM BLOOD ___ PTT-45.0* ___
___ 05:23PM BLOOD Type-ART pO2-89 pCO2-54* pH-7.38 
calTCO2-33* Base XS-4 (On 3.5LNC)

IMPORTANT STUDIES
-----------------
___ CTA CHEST
1. No evidence of pulmonary embolism or aortic abnormality.
2. Bilateral lower lobe atelectasis.

___ ECHO
The left atrium is elongated. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). The estimated cardiac index is normal 
(>=2.5L/min/m2). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. There is moderate pulmonary artery 
systolic hypertension. There is an anterior space which most 
likely represents a prominent fat pad. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global and regional biventricular systolic function. 
Mild aortic regurgitation. Moderate pulmonary hypertension. 

DISCHARGE LABS
--------------

___ 06:24AM BLOOD WBC-6.1 RBC-4.33 Hgb-12.3 Hct-41.1 MCV-95 
MCH-28.4 MCHC-29.9* RDW-15.3 RDWSD-53.7* Plt ___
___ 06:24AM BLOOD Plt ___
___ 06:24AM BLOOD ___ PTT-31.5 ___
___ 06:24AM BLOOD Glucose-117* UreaN-29* Creat-0.9 Na-141 
K-4.0 Cl-102 HCO3-31 AnGap-12
___ 06:24AM BLOOD Calcium-8.9 Phos-3.3 Mg-1.___ with PMH significant for dementia, HTN, h/o PE in 1950s and 
___ on warfarin, hypothyroidism and recent fall with 
non-operative hip fracture who presents to the ED from Pulmonary 
clinic with hypoxia.

BRIEF HOSPITAL COURSE
=====================

ACTIVE
-----
# Mixed hypoxic/hypercapneic respiratory failure: On 
presentation had O2 sats in the ___ on RA, required 3LNC. BNP 
within normal limits; CTA was negative for PE but did 
demonstrate dependent atelectasis. The decision was made to hold 
off on diuresis given her normal BNP and lack of hypervolemic 
signs on physical exam. After admission to the floor, ABG on 
3.5LNC demonstrated hypercapnea (PaCO2 54) and elevated 
Aa-gradient. A TTE showed moderate pulmonary hypertension and no 
evidence of systolic dysfunction. She is discharged to rehab 
with supplemental oxygen. She should undergo further evaluation 
by pulmonary as outpatient. 

# Hypertension:
On presentation had SBP in 180s. Per daughter had been taken off 
of anti-hypertensives a few years ago and PCP was considering 
starting valsartan. She was thus started on 40mg QD with 
resolution of her SBP to the 130s-150s for the duration of her 
admission.

# Supratherapeutic INR:
On presentation had INR of 4.3 so her scheduled dose of 4mg 
coumadin was held. Patient was restarted on home regimen, noted 
to be subtherapeutic on discharge. Patient initiated on 
enoxaparin bridge. Given 4mg warfarin prior to discharge. Rehab 
to continue to assess and titrate. 

CHRONIC
-----
# Hip Fracture: Her home pain management with a lidocaine patch 
and Tylenol was continued. She was evaluated by ___ and deemed 
safe to be discharged back to assisted living.

# Hypothyroidism: Her home regimen of levothyroxine was 
continued with no evidence of hyper/hypothyroidism during 
admission.

# Dementia: Demonstrates evidence of mild dementia and short 
term memory loss 

TRANSITIONAL ISSUES
-------------------
[ ] OP V/Q Scan to evaluate chronic thromboembolic disease
[ ] OP right heart cath to confirm diagnosis of pulmonary HTN 
and evaluate response to therapy
[ ] OP sleep study to evaluate for obstructive sleep apnea
[ ] Started on Valsartan 40mg PO QD, assess benefits of 
continued use versus use of calcium channel blocker for HTN and 
pHTN
[ ] Consider OP CT-ILD protocol to further evaluate for ILD
[ ] Recheck INR on ___, goal 2.0-3.0
[ ] Continue enoxaparin for bridging therapy until INR >2 x 24 
hours

# CONTACT: 
- Daughter ___
- ___ ___ (___) ___
- ___ center ___ ___
- Assisted Living ___
# CODE STATUS: full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO TID 
2. Valsartan 40 mg PO DAILY 
3. Lidocaine 5% Patch 1 PTCH TD QAM 
4. Warfarin 2 mg PO 4X/WEEK (___) 
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. Vitamin D ___ UNIT PO DAILY 
7. Warfarin 4 mg PO 3X/WEEK (MO,WE,SA) 

 
Discharge Medications:
1. Acetaminophen 650 mg PO TID 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Lidocaine 5% Patch 1 PTCH TD QAM 
4. Valsartan 40 mg PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 
6. Warfarin 2 mg PO 4X/WEEK (___) 
7. Warfarin 4 mg PO 3X/WEEK (MO,WE,SA) 
8. Enoxaparin Sodium 70 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
continue enoxaparin until INR is >2 for at least 24 hours  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
-----------------
Mixed Hypoxic/Hypercapneic Respiratory Failure 
Pulmonary Hypertension
Hypertension
Supratherapeutic INR

SECONDARY DIAGNOSES
-------------------
Hip fracture
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because at an outpatient visit 
you were noted to have a low blood oxygen level when breathing 
room air. During your stay you were given extra oxygen to 
increase your blood levels and had several tests performed 
including a CT of your chest, an  ultrasound of your heart, and 
a blood test to level the amount of oxygen and carbon dioxide in 
your blood. While no definitive diagnoses were made, it was 
determined that there were no immediately dangerous conditions 
affecting you, so you were discharged with extra oxygen to 
continue using.

It was a pleasure taking care of you, and we wish you all the 
best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___